US06821967B2
c. 9-{4-[3-methyl-4-quinolin-2-yl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-[2-methyl-piperazin-1-yl]-quinoline

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-[2-methyl-piperazin-1-yl]-quinoline | CC1N(CCNC1)C1=NC2=CC=CC=C2C=C1 | C14H17N3
product | 9-{4-[3-methyl-4-quinolin-2-yl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CC(N(CC1)C1=NC2=CC=CC=C2C=C1)C)(F)F | C34H35F3N4O
